US05817647
E-5-Hydroxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester
A mixture of E-5-t-butyldimethylsilyloxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester (1.7 g, 4.86 mmol) and 1M tetrabutylammonium fluoride in tetrahydrofuran (8 ml, 8 mmol) is stirred 2 hours at 20° C. Then the reaction mixture is concentrated in vacuo and the title product is purified by flash chromatography on silica gel (1.1 g, 94%).

reactant | E-5-t-butyldimethylsilyloxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester | 4.86 mmol, 1.7 g | C(C)OP(OCC)(=O)\C=C\C(CCO[Si](C)(C)C(C)(C)C)=C | C16H33O4PSi
reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 8 mmol, 8 ml | O1CCCC1 | C4H8O
product | E-5-Hydroxy-3-methylidene-1-pentenyl-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)\C=C\C(CCO)=C | C10H19O4P
